US08835488B2
A 50 ml round-bottom flask equipped with a Dean-Stark distillation setup and condenser was charged with tetrahydro-4H-pyran-4-one (4.61 ml, 50 mmol), methyl cyanoacetate (5.3 ml, 60 mmol), ammonium acetate (1 g, 13 mmol), acetic acid (0.57 ml, 10 mmol) and benzene (30 ml). The mixture was refluxed until no more water collected in the Dean-Stark (2 hours), cooled, benzene (30 ml) added and the organic layer washed with water (50 ml). The aqueous layer was extracted with CH2Cl2 (3×50 ml). The combined organic phase was washed with sat. NaHCO3 (100 ml), brine (100 ml) dried (MgSO4), filtered and concentrated. Purified by normal phase SiO2 chromatography (10 to 60% EtOAc/hexanes) to afford methyl 2-cyano-2-(oxan-4-ylidene)acetate as a colorless oil (6.30 g, 70%, m/z: 181.1 [M+H]+ observed).

reactant | tetrahydro-4H-pyran-4-one | 50 mmol, 4.61 ml | O1CCC(CC1)=O | C5H8O2
reactant | methyl cyanoacetate | 60 mmol, 5.3 ml | C(#N)CC(=O)OC | C4H5NO2
reactant | ammonium acetate | 13 mmol, 1 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 10 mmol, 0.57 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | methyl 2-cyano-2-(oxan-4-ylidene)acetate | C(#N)C(C(=O)OC)=C1CCOCC1 | C9H11NO3
